US04025562
Cyclopentadecen-3-one
3-Hydroxycyclopentadecene (20.1 g) in dried n-heptane was stirred at room temperature and a total of 100 g manganese dioxide was added in four batches of 50, 25, 15 and 10 g respectively over a period of 6 hours. After 22 hours the conversion as indicated by GLC was 100%. The mixture was filtered and the filtrate was then stirred with active charcoal and refiltered. The solvent was then removed from the filtrate under reduced pressure to yield the required product.

reactant | 3-Hydroxycyclopentadecene | 20.1 g | OC1C=CCCCCCCCCCCCC1 | C15H28O
solvent | n-heptane | CCCCCCC | C7H16
catalyst | manganese dioxide | 100 g | [O-2].[O-2].[Mn+4]
product | Cyclopentadecen-3-one | C1=CC(CCCCCCCCCCCC1)=O | C15H26O
